US06340704B1
(c) 5-(4-Fluorophenyl)-3,4-dihydro-7-methoxy-1H-pyrano[3,4-b]quinolin-1-one
To a solution of a crude crystal (1.0 g) of 2-[4-(4-fluorophenyl)-2-hydroxymethyl-6-methoxyquinolin-3-yl]-1-ethanol in chloroform (100 ml), manganese dioxide (10 g) was added, followed by stirring at room temperature for 2 hours. After the manganese dioxide was filtered off, the reaction mixture was concentrated under reduced pressure; the residue obtained was recrystallized from THF to yield the title compound (335 mg).

reactant | 2-[4-(4-fluorophenyl)-2-hydroxymethyl-6-methoxyquinolin-3-yl]-1-ethanol | FC1=CC=C(C=C1)C1=C(C(=NC2=CC=C(C=C12)OC)CO)CCO | C19H18FNO3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 10 g | [O-2].[O-2].[Mn+4]
product | 5-(4-Fluorophenyl)-3,4-dihydro-7-methoxy-1H-pyrano[3,4-b]quinolin-1-one | 335 mg | FC1=CC=C(C=C1)C1=C2C(=NC3=CC=C(C=C13)OC)C(OCC2)=O | C19H14FNO3
